US09034900B2
Step 2: 5-[2-(cyclopropylmethoxy)-5-methylsulfonylphenyl]-1-methylpyridin-2-one
1-Methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-one was treated with 2-bromo-1-(cyclopropylmethoxy)-4-methylsulfonylbenzene in a manner similar to Example 94 to give the title compound. 1H NMR (CDCl3, 400 MHz): δ 7.86 (dd, J1=8.8 Hz, J2=2.4 Hz, 1H), 7.81 (d, J=2.0 Hz, 1H), 7.68-765 (m, 2H), 7.03 (d, J=8.4 Hz, 1H), 6.66 (d, J=8.8 Hz, 1H), 3.95 (d, J=6.8 Hz, 2H), 3.64 (s, 3H), 3.07 (s, 3H), 1.28-1.25 (m, 1H), 0.69-0.65 (m, 2H), 0.34-0.38 (m, 2H). LCMS (M+H)+334.

reactant | 1-Methyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-one | CN1C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)=O | C12H18BNO3
reactant | 2-bromo-1-(cyclopropylmethoxy)-4-methylsulfonylbenzene | BrC1=C(C=CC(=C1)S(=O)(=O)C)OCC1CC1 | C11H13BrO3S
product | 5-[2-(cyclopropylmethoxy)-5-methylsulfonylphenyl]-1-methylpyridin-2-one | C1(CC1)COC1=C(C=C(C=C1)S(=O)(=O)C)C=1C=CC(N(C1)C)=O | C17H19NO4S
